US07915411B2
N′-(3-Cyano-6-propylpyrazin-2-yl)-N,N-dimethylformamidine
A mixture of 3-amino-5-propylpyrazine-2-carbonitrile (0.140 g, 0.863 mmol) (prepared according to the method of Taylor and LaMattina, JOC 1977, 47, 1523) and dimethylformamide dimethylacetal (0.123 g, 1.04 mmol, 1.2 eq) in toluene (10 mL) was heated under reflux for 2 h. The mixture was cooled to room temperature and the solvent evaporated under reduced pressure to provide the title compound (0.188 mg, 100%) as a thick oil.

reactant | 3-amino-5-propylpyrazine-2-carbonitrile | 0.863 mmol, 0.140 g | NC=1C(=NC=C(N1)CCC)C#N | C8H10N4
reactant | dimethylformamide dimethylacetal | 1.04 mmol, 0.123 g, 1.2 eq | COC(N(C)C)OC | C5H13NO2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | N′-(3-Cyano-6-propylpyrazin-2-yl)-N,N-dimethylformamidine | 0.188 mg, 100% | C(#N)C=1C(=NC(=CN1)CCC)N=CN(C)C | C11H15N5
